US08017610B2
(9a) Ethyl (2-bromo-1,3-thiazol-4-yl)(oxo)acetate
Commercially available ethyl (2-formamido-1,3-thiazol-4-yl)(oxo)acetate (5.09 g, 22.3 mmol) was dissolved in a mixed solvent of ethanol (50 mL) and 1,4-dioxane, and 30% sulfuric acid (12 mL) was added, followed by stirring at 60° C. for 1 hour. The reaction solution was cooled to room temperature, water (20 mL) and ethyl acetate (20 mL) were added, and the solution was separated. The solvent was distilled off under reduced pressure, and 30% sulfuric acid (40 mL) and potassium bromide (9.3 g, 78.2 mmol) were added, followed by cooling to 0° C. Sodium nitrite (20.0 g, 290 mmol) was dissolved in water (40 mL), followed by dropwise addition over 1 hour, and stirring was further carried out at 0° C. for 1 hour. The solution was separated with ethyl acetate (200 mL), the organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: ethyl acetate/hexane=0%-20%) to afford the desired compound (3.07 g, yield 52%) as a yellow oil.

reactant | ethyl (2-formamido-1,3-thiazol-4-yl)(oxo)acetate | 22.3 mmol, 5.09 g | C(=O)NC=1SC=C(N1)C(C(=O)OCC)=O | C8H8N2O4S
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
reactant | potassium bromide | 78.2 mmol, 9.3 g | [Br-].[K+]
reactant | Sodium nitrite | 290 mmol, 20.0 g | N(=O)[O-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | sulfuric acid | 12 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 40 mL | O | H2O
solvent | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 mL | O | H2O
product | Ethyl (2-bromo-1,3-thiazol-4-yl)(oxo)acetate | 3.07 g, yield 52% | BrC=1SC=C(N1)C(C(=O)OCC)=O | C7H6BrNO3S
